US07763612B2
The 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoic acid (0.060 mole) is dispersed with stirring in a methanol-water mixture (100 mL), and an aqueous solution of cesium carbonate (2 molar) is added dropwise until the solution pH is 6.6. The volatiles are removed by spin evaporation in vacuo. The resulting cesium salt is dried by addition of toluene and removal of the volatiles under reduced pressure. This is repeated several times. The dry cesium salt is dissolved in dimethylformamide (100 mL), and bromochloromethane (Aldrich) (0.060 mole) is slowly added to the solution. The reaction is stirred at ambient temperature in the dark for 12 hours. The mixture is filtered to remove cesium bromide, and the volatiles are removed by spin evaporation in vacuo. The reaction mixture is diluted with dichloromethane (200 mL) and extracted with sodium bicarbonate solution, washed with water, and then with a saturated sodium chloride solution. The organic layer may be dried over sodium sulfate, filtered and concentrated in vacuo to give crude product, which may be purified by column chromatography on silica gel with hexanes/ethyl acetate as eluent. The fractions that contain pure product may be combined and spin evaporated in vacuo to give chloromethyl 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoate.

reactant | 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoic acid | 0.060 mole | ClC1=C(C=C(C(=C1)NCC=1OC=CC1)C(=O)OCC(Cl)(Cl)Cl)S(=O)(=O)NCOC(CCCCC(=O)O)=O | C21H22Cl4N2O9S
reactant | cesium carbonate | 2 molar | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromochloromethane | 0.060 mole | BrCCl | CH2BrCl
solvent | methanol water | 100 mL | CO.O
product | chloromethyl 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoate | ClC1=C(C=C(C(=C1)NCC=1OC=CC1)C(=O)OCC(Cl)(Cl)Cl)S(=O)(=O)NCOC(CCCCC(=O)OCCl)=O | C22H23Cl5N2O9S
